US04766131
To a stirred solution of 1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline (20.0 g, 0.097 m) and triethylamine (9.8 ml, 0.097 m) in chloroform (200 ml) under nitrogen was added dropwise a solution of 4-acetoxyphenylacetyl chloride (20.3 g, 0.097 m) in 50 ml chloroform and the mixture stirred at ambient temperature for 16 hours. The mixture was washed with 10% HCl (3×200 ml), water (200 ml), saturated sodium carbonate (3×150 ml) and water (200 ml) and the chloroform layer dried over MgSO4. Evaporation of the solvent afforded 33.0 g of N-(4-acetoxyphenylacetyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline as a pale yellow oil (89% yield).

reactant | 1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline | 20.0 g | COC=1C=C2CCNC(C2=CC1OC)C | C12H17NO2
reactant | triethylamine | 9.8 ml | C(C)N(CC)CC | C6H15N
reactant | 4-acetoxyphenylacetyl chloride | 20.3 g | C(C)(=O)OC1=CC=C(C=C1)CC(=O)Cl | C10H9ClO3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-acetoxyphenylacetyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline | 33.0 g, 89% yield | C(C)(=O)OC1=CC=C(C=C1)CC(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)C | C22H25NO5
